US07420055B2
Synthesis of N-[4-bromo-2-(pyridine-4-carbonyl)-phenyl]-4-isopropyl-benzenesulfonamide
The title compound was prepared according the general procedure for the synthesis of N-aryl-benzenesulfonamides using 4-isopropyl-benzenesulfonyl chloride and (2-amino-5-bromo-phenyl)-pyridin-4-yl-methanone and purified by HPLC. MS: m/z 460 (M++1).

reactant | 4-isopropyl-benzenesulfonyl chloride | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
reactant | (2-amino-5-bromo-phenyl)-pyridin-4-yl-methanone | NC1=C(C=C(C=C1)Br)C(=O)C1=CC=NC=C1 | C12H9BrN2O
product | N-[4-bromo-2-(pyridine-4-carbonyl)-phenyl]-4-isopropyl-benzenesulfonamide | BrC1=CC(=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C(C)C)C(=O)C1=CC=NC=C1 | C21H19BrN2O3S
